US05849736
Part D. 3-(3-[4-{(Butyloxycarbonylpiperidin-4-yl)methoxy}phenyl]isoxazolin-5-yl{[butanesulfonyl]amino})-propionic Acid (More Polar Diastereomer)
A solution of methyl 3-(3-[4-{(butyloxycarbonylpiperidin-4-yl)methoxy)phenyl]isoxazolin-5-yl{[butanesulfonyl]amino})propionate more polar diastereomer (200 mg, 0.344 mmol) in THF (1 mL) was saponified using 0.5M LiOH (1 mL, 0.5 mmol) over 4 hours as per Example 1, Part F. The crude carboxylic acid was crystallized from EtOAc/hexanes, affording 77 mg (39%) of the desired material; mp: 137.3°-139.0° C.; 1H NMR (300 MHz, CDCl3) δ 7.55 (d, J=8.8 Hz, 2H), 6.87 (d, J=8.8 Hz, 2H), 5.45 (d, J=9.5 Hz, 1H), 4.92 (m, 1H), 4.37 (m, 1H), 4.15 (b, 2H), 3.81, (d, J=6.2 Hz, 2H), 3.47 (dd, J=16.5, 9.9 Hz, 1H), 3.08 (t, J=8.1 Hz, 2H), 3.01 (dd, J=16.5, 7.0 Hz, 1H), 2.74 (bt, J=12.1 Hz, 2H), 2.26 (m, 1H), 2.01 (m, 2H), 1.81 (m, 4H), 1.45 (s, 9H, overlapped with m, 1H), 1.24 (m, 3H), 0.91 (t, J=7.3 Hz, 3H).

reactant | methyl 3-(3-[4-{(butyloxycarbonylpiperidin-4-yl)methoxy)phenyl]isoxazolin-5-yl{[butanesulfonyl]amino})propionate | C(CCC)OC(=O)N1CCC(CC1)COC1=CC=C(C=C1)C1=NOC(C1)N(CCC(=O)OC)S(=O)(=O)CCCC | C28H43N3O8S
reactant | LiOH | 0.5 mmol, 0.5M, 1 mL | [Li+].[OH-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-(3-[4-{(Butyloxycarbonylpiperidin-4-yl)methoxy}phenyl]isoxazolin-5-yl{[butanesulfonyl]amino})-propionic Acid | 77 mg, 39% | C(CCC)OC(=O)N1CCC(CC1)COC1=CC=C(C=C1)C1=NOC(C1)N(CCC(=O)O)S(=O)(=O)CCCC | C27H41N3O8S
